US06511995B1
According to the same manner as that described in Example 1 except for using an equimolar amount of 3,4-difluorobenzoic acid in place of 3,4-dichlorobenzoic acid and using an equimolar amount of {(4-[(5-amino-2-pyridinyl)oxy]phenyl}(phenyl)methanone obtained in Reference Example 25 in place of 4-[(5-amino-2-pyridinyl)oxy]-1-indanone, the reaction was carried out to obtain the titled compound.

reactant | 3,4-difluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
reactant | (4-[(5-amino-2-pyridinyl)oxy]phenyl}(phenyl)methanone | NC=1C=CC(=NC1)OC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C18H14N2O2
product | 4-[(5-amino-2-pyridinyl)oxy]-1-indanone | NC=1C=CC(=NC1)OC1=C2CCC(C2=CC=C1)=O | C14H12N2O2
